US07087605B2
2-Cyclopentyl-5-ethyl-7-cyclopropylimidazo[5,1-f][1,2,4]triazin-4(3H)-one
In analogy to the procedure for Example 1, 200 mg (0.66 mmol) crude N-[1-(3-cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]cyclopropanecarboxamide, 165 mg (1.1 mmol) phosphoric trichloride are stirred at reflux for 4 hours, proportionate amounts of the solvents are used. The product is purified by chromatography (preparative HPLC).

reactant | N-[1-(3-cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]cyclopropanecarboxamide | 0.66 mmol, 200 mg | C1(CCCC1)C1=NN=C(C(N1)=O)C(CC)NC(=O)C1CC1 | C15H22N4O2
reactant | phosphoric trichloride | 1.1 mmol, 165 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Cyclopentyl-5-ethyl-7-cyclopropylimidazo[5,1-f][1,2,4]triazin-4(3H)-one | C1(CCCC1)C1=NN2C(C(N1)=O)=C(N=C2C2CC2)CC | C15H20N4O
